US06051712
23.72 g (77.91 mmol) of [4-(2-trimethylsilyl-ethoxymethoxy)-naphthalen-2-yl]-methanol were dissolved in 350 ml of carbon tetrachloride and the solution was cooled to 0° C. Thereupon, 350 ml of acetonitrile and 26.54 g (1.012 mmol) of triphenylphosphine were added. The light yellow solution was stirred at 0° C. for 30 minutes, warmed to room temperature and stirred for a further 2 hours. A further 10.14 g (38.7 mmol) of triphenylphosphine were added and the reaction mixture was stirred at room temperature for 90 minutes. Subsequently, the mixture was partitioned between methylene chloride and water, the organic phase was dried over magnesium sulphate and finally the solvent was removed under reduced pressure. The crude product was chromatographed on silica gel using a 3:7 mixture of methylene chloride and hexane as the eluent. There were obtained 15.81 g (63% of theory) of 2-chloromethyl-4-(β-trimethylsilylethoxymethoxy)-naphthalene as a light yellow oil; MS: 322, 324 (M)+.

reactant | [4-(2-trimethylsilyl-ethoxymethoxy)-naphthalen-2-yl]-methanol | 77.91 mmol, 23.72 g | C[Si](CCOCOC1=CC(=CC2=CC=CC=C12)CO)(C)C | C17H24O3Si
reactant | acetonitrile | 350 ml | C(C)#N | C2H3N
reactant | triphenylphosphine | 1.012 mmol, 26.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 38.7 mmol, 10.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 350 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-chloromethyl-4-(β-trimethylsilylethoxymethoxy)-naphthalene | 15.81 g, 63% | ClCC1=CC2=CC=CC=C2C(=C1)OCOCC[Si](C)(C)C | C17H23ClO2Si
